US06982274B2
1,3-Benzothiazol-2-yl[5-(dimethoxymethyl)-2-fluorophenyl]methanol
A total of 1.08 g of benzothiazole was dissolved in 15 ml of dry tetrahydrofuran. After cooling to −78° C. in an atmosphere of nitrogen gas, 6.4 ml of 1.56 M solution of n-butyllithium in hexane was added. After stirring for 5 minutes, 8 ml of a solution of 1.35 g of 5-(dimethoxymethyl)-2-fluorobenzaldehyde in dry tetrahydrofuran was added, followed by stirring for 10 minutes. To the reaction mixture was added aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate for two times. The organic layer was washed with water, dried over anhydrous magnesium sulfate and the solvent was evaporated. The residue was purified and separated by silica gel column chromatography (ethyl acetate:hexane=3:7), to give 1.8 g of the title compound as a yellow oil.

reactant | benzothiazole | 1.08 g | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | n-butyllithium | C(CCC)[Li]
reactant | 5-(dimethoxymethyl)-2-fluorobenzaldehyde | 1.35 g | COC(C=1C=CC(=C(C=O)C1)F)OC | C10H11FO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1,3-Benzothiazol-2-yl[5-(dimethoxymethyl)-2-fluorophenyl]methanol | 1.8 g | S1C(=NC2=C1C=CC=C2)C(O)C2=C(C=CC(=C2)C(OC)OC)F | C17H16FNO3S
